US07772221B2
Step DQ (1): 5-Hexenoic acid (Alfa Aesar, 0.096 mmole) and (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol (0.04 mmol, from Preparation BG) were coupled by a procedure analogous to Step DL (1) to afford 20 mg of N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichlorophenyl)-3-hydroxy-butan-2-yl)hex-5-enamide as a clear oil. LC-MS Rt 2.1 min (method A), (M+H)+=547.1.

reactant | 5-Hexenoic acid | 0.096 mmole | C(CCCC=C)(=O)O | C6H10O2
reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol | 0.04 mmol | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)N)O | C23H28Cl2N2O3
product | N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-dichlorophenyl)-3-hydroxy-butan-2-yl)hex-5-enamide | 20 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)NC(CCCC=C)=O)O | C29H36Cl2N2O4
